US07091227B2
1(6-(3-Phenylaminocarbonylamino-propanoyl)-2-benzothiazolyl)-3-ethylurea
A solution of 1-(6-(3-aminopropanoyl)-2-benzothiazolyl)-3-ethylurea (0.033 g, 0.10 mmol) in 1 mL anhydrous DMF was treated with triethylamine (0.028 mL, 0.20 mmol, 2.0 eq) at room temperature. It was stirred for about 5 min, followed by the addition of phenyl isocyanate (0.013 mL, 0.12 mmol, 1.2 eq). It was stirred for about 2.5 hours, quenched with MeOH, filtered, concentrated, and purified by HPLC to give the desired compound 0.009 g (22%). LC/MS 412.2 (M+1); LC retention time 2.80 min.

reactant | 1-(6-(3-aminopropanoyl)-2-benzothiazolyl)-3-ethylurea | 0.10 mmol, 0.033 g | NCCC(=O)C1=CC2=C(N=C(S2)NC(=O)NCC)C=C1 | C13H16N4O2S
reactant | triethylamine | 0.20 mmol, 0.028 mL, 2.0 eq | C(C)N(CC)CC | C6H15N
reactant | phenyl isocyanate | 0.12 mmol, 0.013 mL, 1.2 eq | C1(=CC=CC=C1)N=C=O | C7H5NO
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 1(6-(3-Phenylaminocarbonylamino-propanoyl)-2-benzothiazolyl)-3-ethylurea | 0.009 g, 22% | C1(=CC=CC=C1)NC(=O)NCCC(=O)C1=CC2=C(N=C(S2)NC(=O)NCC)C=C1 | C20H21N5O3S
